US04873236
11-[[[2-[4-[4-(Diethylamino)butyl]-piperidin-l-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 109 from 11-[[[2-bromo-ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 4-[4-(diethylamino)butyl]-piperidine, but using dimethylformamide instead of acetonitrile, in a yield of 60% of theory. Colourless crystals, m.p. 167° C. (ethyl acetate).

reactant | 11-[[[2-bromo-ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | BrCCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H13BrN4O2
reactant | 4-[4-(diethylamino)butyl]-piperidine | C(C)N(CCCCC1CCNCC1)CC | C13H28N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-[[[2-[4-[4-(Diethylamino)butyl]-piperidin-l-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 60% | C(C)N(CCCCC1CCN(CC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | C28H40N6O2
